US06610717B2
1) Synthesis of Benzyl 4-(2-cyclohexylethoxy)acetoacetate
0.68 g (17.0 mmol) of sodium hydride (60% oily) was suspended in 7 ml of THF. 1.36 g (10.6 mmol) of 2-cyclohexylethanol was added to the obtained suspension at 0° C., and they were stirred at 40° C. for 30 minutes. 2.00 g (8.82 mmol) of benzyl 4-chloroacetoacetate was added to the obtained mixture at room temperature, and they were refluxed at 100° C. for 3 hours. 1 N hydrochloric acid was added to the reaction mixture. After the extraction with ethyl acetate, the organic layer was washed with 10% aqueous sodium hydroxide solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=4/1) to obtain the title compound.

reactant | sodium hydride | 17.0 mmol, 0.68 g | [H-].[Na+]
reactant | 2-cyclohexylethanol | 10.6 mmol, 1.36 g | C1(CCCCC1)CCO | C8H16O
reactant | benzyl 4-chloroacetoacetate | 8.82 mmol, 2.00 g | ClCC(CC(=O)OCC1=CC=CC=C1)=O | C11H11ClO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | Benzyl 4-(2-cyclohexylethoxy)acetoacetate | C1(CCCCC1)CCOCC(CC(=O)OCC1=CC=CC=C1)=O | C19H26O4
